US04166852
(c) 2-Acetylamino-4-N-methylpiperazino-5-methyl-6-chloro-pyrimidine
8.8 parts of 2-acetylamino-4,6-dichloro-5-methylpyrimidine are dissolved in 100 parts by volume of tetrahydrofuran in the presence of 4 parts of triethylamine and 4 parts of N-methylpiperazine. The mixture is held for 6 hours at the reflux temperature. The reaction mixture is poured into water and the insoluble material is filtered off which is recrystallised from ethanol. M.p. 202° C.

reactant | 2-acetylamino-4,6-dichloro-5-methylpyrimidine | C(C)(=O)NC1=NC(=C(C(=N1)Cl)C)Cl | C7H7Cl2N3O
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | N-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 2-Acetylamino-4-N-methylpiperazino-5-methyl-6-chloro-pyrimidine | C(C)(=O)NC1N(CCN(C1)C)C1=NC(=C(C=N1)C)Cl | C12H18ClN5O
